US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(2-quinoxalinyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one-8-boronic acid (187 mg, 0.65 mmol), tetrakis (triphenylphosphine) palladium (0) (23 mg, 0.02 mmol), 2-chloroquinoxaline (107 mg, 0.65 mmol), 0.65 mL of 2M sodium carbonate solution and 2 mL of THF, fitted with a reflux condenser, and the stirred mixture was heated at 80°, under nitrogen for 16 h. Added an additional 23 mg of the palladium reagent, and let stir an additional 16 h. The mixture was cooled, diluted with chloroform (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (ethyl acetate eluent) to give 156 mg (67%) of the title compound as a foam. mp 129°-135°. FDMS: m/e=357. α[D]589 =+72.94 (c=0.63, chloroform).

reactant | 2-chloroquinoxaline | 0.65 mmol, 107 mg | ClC1=NC2=CC=CC=C2N=C1 | C8H5ClN2
reactant | sodium carbonate | 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | chloroform | 75 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.02 mmol, 23 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | palladium | 23 mg | [Pd] | Pd
product | (+)-(4aR)-(10bR)-4-methyl-8-(2-quinoxalinyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 156 mg, 67% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=NC1=CC=CC=C1N=C3)C)=O | C23H23N3O
